US06403561B1
Preparation of Methyl 4-ethoxyindole-2-carboxylate
Methyl 2-azido-3-(2-ethoxyphenyl)propenoate (2.061 g, 10 mmol) was suspended in toluene (500 ml) and the mixture was refluxed for three hours and then maintained at room temperature overnight. The solids were collected by filtration in order to give the desired product in the form of a yellow solid.

reactant | Methyl 2-azido-3-(2-ethoxyphenyl)propenoate | 10 mmol, 2.061 g | N(=[N+]=[N-])C(C(=O)OC)=CC1=C(C=CC=C1)OCC | C12H13N3O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-ethoxyindole-2-carboxylate | C(C)OC1=C2C=C(NC2=CC=C1)C(=O)OC | C12H13NO3
